US08426420B2
(iii) 4-{(S)-3-tert-Butoxycarbonyl-2-[(5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 11.6 g 4-{(S)-2-[(5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-3-tert-butoxycarbonyl-propionyl}-piperazine-1-carboxylic acid ethyl ester in 60 ml ethyl acetate were added under argon 1.5 g Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (3 bar) for 16 h. The suspension was filtered over a plug of Celite® and washed with ethyl acetate. The crude product obtained after evaporation of the solvent was dried under vacuo.

reactant | 4-{(S)-2-[(5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-3-tert-butoxycarbonyl-propionyl}-piperazine-1-carboxylic acid ethyl ester | 11.6 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C34H41N5O9
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 4-{(S)-3-tert-Butoxycarbonyl-2-[(5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)O)C1=CC=CC=C1)=O | C27H35N5O9
